US06743794B2
(2-Cyano-6-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic Acid Ethyl Ester
To a mixture of ethyl 3-(2-fluoro-6-iodo-phenyl)-5-methyl-isoxazole-4-carboxylate (0.25 g, 0.67 mmol), tetrakis(triphenylphosphine)palladium (0.08 g, 0.067 mmol), and triethylamine (5 ml) under N2 was added trimethylsilyl cyanide and heated at reflux overnight. The reaction was cooled to room temperature, diluted with H2O, and extracted with EtOAc (2×). The combined extracts were washed (H2O then brine), dried (MgSO4), filtered, and concentrated. Flash chromatography (silica gel, EtOAc/hexanes gradient) gave the title compound (0.15 g, 82%). Mass Spectrum (ES+) (m/z) 275.0 [M+1].

reactant | ethyl 3-(2-fluoro-6-iodo-phenyl)-5-methyl-isoxazole-4-carboxylate | 0.67 mmol, 0.25 g | FC1=C(C(=CC=C1)I)C1=NOC(=C1C(=O)OCC)C | C13H11FINO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.067 mmol, 0.08 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Cyano-6-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic Acid Ethyl Ester | 0.15 g, 82% | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)C#N | C14H11FN2O3
